US05221752
[2-Hydroxy-2-(N-t-butyloxycarbonylpiperidin-2-yl)acetyl]-D-leucylvaline benzyl ester (85 mg) was dissolved in dichloromethane (1 ml) and a 4N hydrochloric acid/dioxane solution (1 ml) was added to the solution under cooling with ice to conduct a reaction at room temperature for 2 h. The reaction liquid was concentrated under reduced pressure and the residue was washed with n-hexane several times and dried to give [2-hydroxy-2-(piperidin-2-yl)acetyl]-D-leucylvaline benzyl ester hydrochloride.

reactant | [2-Hydroxy-2-(N-t-butyloxycarbonylpiperidin-2-yl)acetyl]-D-leucylvaline benzyl ester | 85 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@H](NC(C(C1N(CCCC1)C(=O)OC(C)(C)C)O)=O)CC(C)C)=O)C(C)C)=O | C30H47N3O7
reactant | hydrochloric acid dioxane | 4N, 1 ml | Cl.O1CCOCC1
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [2-hydroxy-2-(piperidin-2-yl)acetyl]-D-leucylvaline benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC([C@H](NC(C(C1NCCCC1)O)=O)CC(C)C)=O)C(C)C)=O | InChI=1S/C25H39N3O5.ClH/c1-16(2)14-20(27-24(31)22(29)19-12-8-9-13-26-19)23(30)28-21(17(3)4)25(32)33-15-18-10-6-5-7-11-18;/h5-7,10-11,16-17,19-22,26,29H,8-9,12-15H2,1-4H3,(H,27,31)(H,28,30);1H/t19?,20-,21+,22?;/m1./s1
